US08071600B2
Potassium carbonate (3.87 g, 28 mmol) was added to a solution of 7.76 g (23.3 mmol) of 4-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)butyl acetate in 90% methanol solution (150 ml). The solution mixture was stirred at room temperature for 2 hours. Water was added to the reaction solution, which was then extracted with dichloromethane. The extraction solution was dried over sodium sulfate and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (n-hexane:ethyl acetate=2:1→1:1), and concentrated under reduced pressure to obtain 4-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)butan-1-ol (6.65 g) as colorless oil.

reactant | Potassium carbonate | 28 mmol, 3.87 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)butyl acetate | 23.3 mmol, 7.76 g | C(C)(=O)OCCCCN1CCN(CC1)C1=CC=CC=2SC=CC21 | C18H24N2O2S
reactant | Water | O | H2O
solvent | methanol | 150 ml | CO | CH4O
product | 4-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)butan-1-ol | 6.65 g | S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCCO | C16H22N2OS
